* OVERALL BEST CANDIDATE: 00_Phase_1_36V_Telecom_to_12V_Buck_exact_3_1_g3_cand1_b8
* FITNESS SCORE: 0.9393
*
* Generated: 2026-06-04T14:55:12
* Constraint: Phase 1: 36V Telecom to 12V (Buck - exact 3:1)
*   vin_min = 34
*   vin_max = 40
*   vout_target = 12
*   efficiency_target = 0.82
*   power_in = 45
* Candidate: 7 of 12
* Grouped name: g3_cand1
*
* 36V to 12V SEPIC
Vin in 0 36
L1 in sw1 22u
M1 sw1 gate1 0 0 NMOS W=1 L=1
C1 sw1 sw2 22u
L2 sw2 0 22u
D1 sw2 out DIODE
C2 out 0 220u
Rload out 0 0.267
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 3.33u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
